US08232265B2
Silver Docusate
In a reaction vessel charged with a magnetic stirbar and protected from light, 5.0 g (29 mmol) of silver nitrate was dissolved in approximately 100 mL of deionized water. To the stirred solution was added, is small portions, 13.1 g (29 mmol) of sodium docusate. As the docusate was added, the solution became gradually gelatinous with attendant difficulties in stirring that were remedied by gently heating the solution. After addition of the final portion of sodium docusate, the warmed solution/suspension was stirred overnight, after which point it was rotary evaporated to yield a slightly tan mass. The mass was extracted with a chloroform-acetonitrile mixture, into which much of the material dissolved but some white solid (presumed to be NaNO3) did not. The mixture was filtered and evaporated under reduced pressure to give a soft mass of slightly off-white final product (which should be stored away from light because it is photosensitive). This material was soluble in lidocaine docusate, some organic solvents, and was relatively slow to dissolve in water, doing so to only a limited degree. The two ions have known antimicrobial and emollient properties, respectively.

reactant | silver nitrate | 29 mmol, 5.0 g | [N+](=O)([O-])[O-].[Ag+]
reactant | sodium docusate | 29 mmol, 13.1 g | [Na].CCCCC(CC)COC(=O)CC(C(=O)OCC(CC)CCCC)S(=O)(=O)O
reactant | docusate | CCCCC(CC)COC(=O)CC(C(=O)OCC(CC)CCCC)S(=O)(=O)O | C20H38O7S
solvent | water | approximately 100 mL | O | H2O
product | Silver Docusate | [Ag].CCCCC(CC)COC(=O)CC(C(=O)OCC(CC)CCCC)S(=O)(=O)O | InChI=1S/C20H38O7S.Ag/c1-5-9-11-16(7-3)14-26-19(21)13-18(28(23,24)25)20(22)27-15-17(8-4)12-10-6-2;/h16-18H,5-15H2,1-4H3,(H,23,24,25);
